US07078428B2
N-Isobutyl-4-methylphthalimide is prepared as described in Example 2, starting with 6.0 g of 4-methylphthalic anhydride, 3.7 cm3 of isobutylamine and a catalytic amount of para-toluenesulphonic acid in 60 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 140° C. for three hours and is then cooled to a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in 50 cm3 of saturated aqueous sodium bicarbonate solution, and the mixture is then extracted twice with 75 cm3 of dichloromethane. The organic extracts are combined, dried over sodium sulphate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 30° C., giving 6.7 g of N-isobutyl-4-methylphthalimide in the form of a white solid melting at 102° C.

reactant | 4-methylphthalic anhydride | 6.0 g | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
reactant | isobutylamine | 3.7 cm3 | C(C(C)C)N | C4H11N
reactant | para-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 60 cm3 | C1(=CC=CC=C1)C | C7H8
product | N-isobutyl-4-methylphthalimide | 6.7 g | C(C(C)C)N1C(C=2C(C1=O)=CC(=CC2)C)=O | C13H15NO2
